US08222435B2
(E)-Ethyl 3-(1,3-dioxolan-4-ylidene)-2-oxopropanoate
The solution of ethyloxalyl chloride (10.3 g, 75.5 mmol) in CH2Cl2 (10 mL) was added at 0° C. to the solution of methylene dioxolane (6.5 g, 75.5 mmol) and pyridine (6.3 g, 80 mmol) in CH2Cl (80 mL). The reaction mixture was stirred for 10 hours at 5° C. and diluted with 200 ml of water. The product was extracted with 200 ml of hexane, the solution of hexane was dried with MgSO4 and concentrated by evaporation. This gave 11.9 g (85%) of the product, b.p. 106-110° C./0.5 mmHg.

reactant | ethyloxalyl chloride | 75.5 mmol, 10.3 g | CCC(=O)C(=O)Cl | C4H5ClO2
reactant | methylene dioxolane | 75.5 mmol, 6.5 g | C=C1OCCO1 | C4H6O2
reactant | pyridine | 80 mmol, 6.3 g | N1=CC=CC=C1 | C5H5N
reactant | water | 200 ml | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-Ethyl 3-(1,3-dioxolan-4-ylidene)-2-oxopropanoate | O1CO\C(\C1)=C\C(C(=O)OCC)=O | C8H10O5
